Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___
 
Chief Complaint:
transient left-sided paresthesias, SAH
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with PMHx of HTN, HLD,
hypothyroidism, arrhythmia NOS, and anxiety who presents to 
___
ED from ___ after ___ shows question of R frontal SAH.
Neurosurgery requesting neurology consultation.
Ms. ___ reports that her symptoms began last night as she 
was
siting on the couch. She suddenly felt her left hand fingers
(digits 3 and 4) and left face (V3) "get numb". She believes 
that
both became numb at roughly the same time. She describes the
sensation as "like novacaine." There were no associated symptoms
such as HA or weakness, though Ms. ___ did not speak at that
time to know if her speech was slurred. The symptoms completely
resolved after 15 minutes, and Ms. ___ thought that perhaps
she had just sat on her arm wrong.
A second episode occurred on the morning of presentation, around
11:30AM. Ms. ___ was sitting in her car waiting to pick up
her grandson. When she got out of the car, she again had the
sudden onset of left fingers and left face tingling. At this 
time
she called her sister on the phone to tell her what was
happening. As she was speaking, Ms. ___ felt that her speak
was slurred. Her sister noticed this as well and called an
ambulance for Ms. ___. With this second episode, Ms. ___
denies any headache, weakness, confusion, bowel or bladder
problems. She does report the slurred speech but is unsure if 
her
face felt weak. Again, the episode lasted 15 mintues, ended
abruptly, and afterwards she returned completely to baseline.
She was brought to ___ where a ___ was performed. This
showed some convexal hyperintensity over the R frontal lobe,
concerning for SAH. Ms. ___ was then transferred to ___ ED
for further evaluation and management. She was seen by
neurosurgery in our ED who felt there was no role for
neurosurgery intervention and recommended evaluation by
neurology.
At the time of neurology interview, Ms. ___ is without
complaints. She is feeling well, at her functional baseline.

On ROS, she denies HA, blurry vision, diplopia, chest pain,
abdominal pain, bowel or bladder difficulties. She denies
confusion or difficulty comprehending speech.

Of note, Ms. ___ does report that she went to ___ 
about
___ months ago for an episode of dizziness and tachycardia. She
states that she was diagnosed with "an arrhythmia" and started 
on
Verapamil. Atrial fibrillation was not mentioned. She does 
report
that she has heart palpitations several times per week. She has
been told by her PCP that the palpitations are due to anxiety.

 
Past Medical History:
- HTN
- HLD
- hypothyroidism
- anxiety
- arrhythmia NOS
- previous "TIA"
  - ___ ago, p/w chest pain -> diagnosed with ?TIA
- L knee OA

 
Social History:
___
Family History:
Brother - testicular cancer diagnosed at age ___, metastatic; MI
at age ___
Brother(s) - MIs in their ___
Sister(s) - breast cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
VS HR84 BP137/62 RR16 Sat97%RA 
GEN - very pleasant woman, lying in bed, family in room
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
days of week backwards. Recalls a coherent history. Structure of
speech demonstrates fluency with full sentences, normal prosody.
Naming, repetition, and comprehension are intact. No dysarthria.
No apraxia. No evidence of hemineglect. No left-right agnosia.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. [V] V1-V3 without deficits to light 
touch
bilaterally. [VII] No facial movement asymmetry with forced
eyelid closure or volitional smile. [VIII] Hearing intact to
finger rub bilaterally. [IX, X] Palate elevation symmetric. [XI]
SCM/Trapezius strength ___ bilaterally. [XII] Tongue midline 
with
full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No asterixis.
 [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5

SENSORY - No deficits to light touch or pinprick throughout.
Proprioception intact at bilateral great toes.

REFLEXES - 
 [Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        0
R 2      2      2      2        0
Plantar response mute bilaterally.

COORD - Mild intention tremor but no dysmetria with finger to
nose or heel-shin testing. Good speed and intact cadence with
rapid alternating movements. Negative Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway.

 
Pertinent Results:
DIAGNOSTICS:
___ - 20:10   
140  ___   AGap=17 
3.8  22  0.8  

6.5  12.3  192 
     35.4  
N:63.8 L:24.1 M:9.3 E:2.0 Bas:0.5

___: 11.5  PTT: 29.1  INR: 1.1  

CTA H&N - ___
*CT is unable to differentiate between hemorrhage (due to
amyloid) or hemorrhage with underlying mass (atypical density 
for
blood alone, gyral thickening suggests mass*
Noncontrast head CT: Similar appearing cortical thickening and
effacement of the right prefrontal gyrus with serpiginous
hyperdensity along the gyrus, possibly representing hemorrhage.
No new area of hemorrhage is identified.
CTA head and neck: Patent intracranial vasculature with areas of
atherosclerotic calcification at the carotid siphons bilaterally
and at the left carotid bifurcation. Patent cervical and
intracranial vertebral arteries, as well as posterior
circulation.

MRI Brain

FINDINGS:  
  
Study is mildly degraded by motion.  There is leptomeningeal 
enhancement 
involving the right frontal operculum and the lateral precentral 
gyrus.  There 
is sulcal or gradient echo hypointensity within the right mid to 
lateral 
central sulcus and lateral precentral sulcus, which corresponds 
to the 
cortical hyperdensity seen on prior CT. 
  
There is periventricular and subcortical white matter FLAIR 
hyperintensity, 
some of which is confluent, in addition to central pontine FLAIR 

hyperintensity, likely representing sequela of chronic 
microangiopathy.  There 
is no acute infarct or mass effect.  The ventricles and cortical 
sulci are 
normal in caliber and configuration. 
  
The orbits, calvarium, soft tissues are unremarkable.  The 
paranasal sinuses 
and mastoid air cells are clear. 
  
IMPRESSION: 
  
1.  Study is mildly degraded by motion. 
2. Right frontal operculum to mid precentral sulcus subarachnoid 
hemorrhage 
corresponding to hyperdensity on CT, with leptomeningeal 
enhancement.  While  enhancement may be secondary to hemorrhage, 
infectious, inflammatory, and  neoplastic processes are not 
excluded on the basis of this examination.    
3.  Probable small vessel ischemic changes as described. 
  
 
Brief Hospital Course:
Ms. ___ is a ___ F with ___ of HTN, HLD, 
hypothyroidism, arrhythmia NOS, and anxiety who presents to 
___ ED from ___ after ___ shows question of R frontal 
SAH.  She reports  two discrete episodes of left facial and hand 
numbness, lasting ___ mins. The second episode was accompanied 
with transient slurring of speech. Exam is now normal.  
R-frontal SAH confirmed by MRI. The MRI does not
show any abnormal enhancement or prior evidence of bleeding. CTA 
shows no evidence of any vascular malformation.  The main 
suspicion is for transient left sided symptoms secondary to a 
convexal SAH, possibly due to amyloid angiopathy. EEG was normal 
though no events captured.  Patient and family counseled and 
AEDs deferred. Advised to avoid asa & other NSAIDs. 

#NEURO - likely convexal bleed due to amyloid angiopathy with 
paresthesias due to cortical spreading depression and less 
likely seizure
- MRI confirms SAH
- extended routine EEG negative for seizure. No AEDs initiated.
- hold ASA.
- will continue Ativan as this is a home med for her. Avoid 
NSAIDs

#CV:
- goal sBP < 140/90, strict sBP < 160
- telemetry no Afib or other arrhythmia 

GEN:
- Please follow up with your primary care physician in the next 
___ weeks. Your appointment in the stroke clinic is listed 
below.
 

 
AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Losartan Potassium 50 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Verapamil 120 mg PO Q24H 
7. Lorazepam 0.5 mg PO TID 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Lorazepam 0.5 mg PO TID 
4. Losartan Potassium 50 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Verapamil 120 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SUBARACHNOID HEMORRHAGE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 You were hospitalized due to symptoms of left hand and face 
numbness resulting from a SUBARACHNOID HEMORRHAGE, a condition 
in which a blood vessel providing oxygen and nutrients to the 
brain ruptures preventing adequate blood flow to portions of the 
brain. We think this is due to AMYLOID ANGIOPATHY, a condition 
where abnormal protein deposits in the blood vessels. The brain 
is the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms. Your 
EEG did not show any evidence of seizures. 
 Because these events can happen again, and can potentially 
leave permanent deficits, we need to do everything we can to 
prevent them. You will need strict management of your blood 
pressure. Please purchase a blood pressure cuff at your nearest 
pharmacy and start measuring your blood pressure daily.  Your 
systolic blood pressure (the top number) goal is <140. Keep a 
log of your blood pressures and bring them to every appointment. 
 We also recommend a heart healthy diet (low fat, low salt), 
daily exercise, and stress reduction techniques. Please avoid 
lifting more than 10 pounds at a time. You should also avoid 
situations that would put you at high risk for falling and 
causing a bleed. You should stop taking aspirin. You should also 
avoid non-steroidal anti-inflammatory drugs like ibuprofen or 
naproxen (use tylenol instead). Please follow up with your 
primary care physician in the next ___ weeks. Your appointment 
in the stroke clinic is listed below.

It was a pleasure meeting you!
Your ___ Neurology Team

 
Followup Instructions:
___